US06388128B1
A solution of 4.25 g (25 mmol) of (R)-3-chloro-1-phenyl-1-propanol in 20 mL of methanol, containing 0.75 g of 5% rhodium-on-alumina, was hydrogenated at 60-65 psig at RT on a Parr shaker for 6.5 hours. The solution was filtered and concentrated, and the crude product was purified by chromatography on silica to give 2.32 g (55%) of (R)-3-chloro-1-cyclohexyl-1-propanol. NMR (DMSO-d6) δ0.8-1.3 (m, 5H), 1.5-1.9 (m, 6H), 3.30 (m, 1H), 3.68 (2 overlapping t, J=5.2 and 7.0, 2H), 4.48 (d, J=5.9, 1H, exchanges).

reactant | (R)-3-chloro-1-phenyl-1-propanol | 25 mmol, 4.25 g | ClCC[C@@H](O)C1=CC=CC=C1 | C9H11ClO
solvent | methanol | 20 mL | CO | CH4O
catalyst | rhodium-on-alumina | 0.75 g | [Rh] | Rh
product | (R)-3-chloro-1-cyclohexyl-1-propanol | 2.32 g, 55% | ClCC[C@@H](O)C1CCCCC1 | C9H17ClO
